US04523020
ethyl 2-(4-bromo-2,6-dimethyl-3-nitrophenoxy)propanoate
Ethyl 2-(4-bromo-2,6-dimethylphenoxy)propanoate (92.8 g, 307 mmole), prepared by the method of Example 1 from 4-bromo-2,6-dimethylphenol, was dissolved in 320 ml of cold (-10°) concentrated sulfuric acid. While maintaining the temperature below 0°, 22.4 ml of 70% nitric acid was added slowly. After fifteen minutes the reaction mixture was poured onto ice and diluted to 1.0 l with water, then extracted with two portions of diethyl ether. The organic portion was washed repeatedly with aqueous sodium bicarbonate and then with water. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to dryness. Chromatography on silica gel (ethyl acetate-hexane eluent) afforded the title compound. Structure assignment was supported by nmr and infrared spectra.

reactant | Ethyl 2-(4-bromo-2,6-dimethylphenoxy)propanoate | 307 mmole, 92.8 g | BrC1=CC(=C(OC(C(=O)OCC)C)C(=C1)C)C | C13H17BrO3
reactant | 4-bromo-2,6-dimethylphenol | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | nitric acid | 22.4 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | ethyl 2-(4-bromo-2,6-dimethyl-3-nitrophenoxy)propanoate | BrC1=C(C(=C(OC(C(=O)OCC)C)C(=C1)C)C)[N+](=O)[O-] | C13H16BrNO5
